US09388153B2
Tetrabutylammonium fluoride in THF (1 M, 3.4 mL, 3.4 mmol) was added to a solution of methyl 2-(3-((t-butyldimethylsilyl)oxy)phenoxy)acetate (0.50 g, 1.7 mmol) in THF (5 mL) in a 100 mL round bottom flask. The reaction was allowed to stir overnight at room temperature. The reaction was quenched with saturated aqueous ammonium chloride (100 mL) and extracted with ethyl acetate (200 mL). The organic extract was dried (Na2SO4), filtered and concentrated. The resulting crude residue was purified by combiflash (40 g column, hexanes→100% ethyl acetate/hexanes, gradient) to afford 0.19 g (60%) of methyl 2-(3-hydroxyphenoxy)acetate.

reactant | Tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | methyl 2-(3-((t-butyldimethylsilyl)oxy)phenoxy)acetate | 1.7 mmol, 0.50 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(OCC(=O)OC)C=CC1 | C15H24O4Si
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 3.4 mmol, 1 M, 3.4 mL | C1CCOC1 | C4H8O
product | methyl 2-(3-hydroxyphenoxy)acetate | 0.19 g, 60% | OC=1C=C(OCC(=O)OC)C=CC1 | C9H10O4
